US09376449B2
To a mixture of ethyl 5-methoxy-3-[(E)-2-nitrovinyl]-1H-indole-2-carboxylate (4.92 g) and ethanol (100 mL) was added sodium borohydride (1.92 g), followed by stirring at room temperature for 2 hours. To the mixture were added acetic acid and then water under ice-cooling, and the precipitated solid was collected by filtration and dried to obtain ethyl 5-methoxy-3-(2-nitroethyl)-1H-indole-2-carboxylate (4.01 g) as a yellow solid.

reactant | ethyl 5-methoxy-3-[(E)-2-nitrovinyl]-1H-indole-2-carboxylate | 4.92 g | COC=1C=C2C(=C(NC2=CC1)C(=O)OCC)\C=C\[N+](=O)[O-] | C14H14N2O5
reactant | ethanol | 100 mL | C(C)O | C2H6O
reactant | sodium borohydride | 1.92 g | [BH4-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | ethyl 5-methoxy-3-(2-nitroethyl)-1H-indole-2-carboxylate | 4.01 g | COC=1C=C2C(=C(NC2=CC1)C(=O)OCC)CC[N+](=O)[O-] | C14H16N2O5
